US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-thiourea
Prepared using Method A from 4.5 g (24.5 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 3.06 g (24.5 mmol) of 4-amino-1,3,5-trimethylpyrazole to give 5.4 g of title compound as a white solid, m.p. 176-177° C. (71% yield).

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 24.5 mmol, 4.5 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 4-amino-1,3,5-trimethylpyrazole | 24.5 mmol, 3.06 g | NC=1C(=NN(C1C)C)C | C6H11N3
product | 1-(5-Chloro-2-methyl-phenyl)-3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-thiourea | 5.4 g, 71% yield | ClC=1C=CC(=C(C1)NC(=S)NC=1C(=NN(C1C)C)C)C | C14H17ClN4S
